US09238640B2
To a solution of tert-butyl 4-(benzylamino)piperidine-1-carboxylate (8.1 g, 28.0 mmol) and Et3N (7.8 mL, 56.0 mmol) in CH2Cl2 (100 mL) was added acetyl chloride (2.4 mL, 33.5 mmol) and the reaction was stirred at room temperature overnight, then concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 30% to 60% EtOAc/CH2Cl2, afforded tert-butyl 4-(N-benzylacetamido)piperidine-1-carboxylate (9.3 g, 99%).

reactant | tert-butyl 4-(benzylamino)piperidine-1-carboxylate | 28.0 mmol, 8.1 g | C(C1=CC=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O2
reactant | Et3N | 56.0 mmol, 7.8 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 33.5 mmol, 2.4 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(N-benzylacetamido)piperidine-1-carboxylate | 9.3 g, 99% | C(C1=CC=CC=C1)N(C(C)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O3
